US07781591B2
To a stirred solution of 4-[(7-chloro-4-methyl-1H-indol-5-yl)amino]-5-iodonicotinonitrile (122 mg, 0.3 mmol) in DMF (4 mL) was added 2-benzofuranboronic acid (162 mg, 0.4 mmol) and tetrakis(triphenylphosphine)palladium(0) (34 mg, 0.03 mmol) under nitrogen atmosphere and the reaction mixture was heated at 60° C. overnight. After the solution was cooled to room temperature, ethyl acetate was added, and the organic phase was washed with water and saturated aqueous sodium chloride, dried over magnesium sulfate and concentrated. The residue was purified by flash column chromatography (ethyl acetate/hexane) to give 5-(1-benzofuran-2-yl)-4-[(7-chloro-4-methyl-1H-indol-5-yl)amino]nicotinonitrile (18 mg, 15%). HPLC retention time: 13.4 min.(g); MS: 399.3 (M+H); and HRMS: 399.1009.

reactant | 4-[(7-chloro-4-methyl-1H-indol-5-yl)amino]-5-iodonicotinonitrile | 0.3 mmol, 122 mg | ClC=1C=C(C(=C2C=CNC12)C)NC1=C(C=NC=C1C#N)I | C15H10ClIN4
reactant | 2-benzofuranboronic acid | 0.4 mmol, 162 mg | O1C(=CC2=C1C=CC=C2)B(O)O | C8H7BO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.03 mmol, 34 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(1-benzofuran-2-yl)-4-[(7-chloro-4-methyl-1H-indol-5-yl)amino]nicotinonitrile | 18 mg, 15% | O1C(=CC2=C1C=CC=C2)C=2C=NC=C(C#N)C2NC=2C(=C1C=CNC1=C(C2)Cl)C | C23H15ClN4O
